US08067445B2
Step 1: N-(2-Bromo-5-trifluoromethyl-benzyl)-N-ethyl-acetamide
Prepared according to the procedure described in Example 1, Step 6, using the following starting materials: (2-bromo-5-trifluoromethyl-benzyl)-ethyl-amine and acetyl chloride.

reactant | (2-bromo-5-trifluoromethyl-benzyl)-ethyl-amine | BrC1=C(CNCC)C=C(C=C1)C(F)(F)F | C10H11BrF3N
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | N-(2-Bromo-5-trifluoromethyl-benzyl)-N-ethyl-acetamide | BrC1=C(CN(C(C)=O)CC)C=C(C=C1)C(F)(F)F | C12H13BrF3NO
